US06562811B1
To a stirred solution of tert-butyl 3-{6-[2-(benzyloxy)phenyl]-2-bromo-3-formyl-4-pyridinyl}-1-piperidinecarboxylate (0.150 g, 0.272 mmol) in 1,4-dioxane (1 mL) was added hydrazine monohydrate (0.5 mL). The reaction mixture was stirred at 90° C. for 15 hrs. After cooled to room temperature, the reaction was quenched with water and extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give tert-butyl 3-{6-[2-(benzyloxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-4-yl}-1-piperidinecarboxylate as a white solid (0.030 g, 23%). Then tert-butyl 3-{6-[2-(benzyloxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-4-yl}-1-piperidinecarboxylate was treated in a similar manner as that of the step (2) of Example 1-1 and then the step (3) of Example 1-1 to obtain 2-(4-Piperidin-3-yl-1H-pyrazolo[3,4-b]pyridin-6-yl)-phenol hydrochloride.

reactant | tert-butyl 3-{6-[2-(benzyloxy)phenyl]-2-bromo-3-formyl-4-pyridinyl}-1-piperidinecarboxylate | 0.272 mmol, 0.150 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=CC(=C(C(=N1)Br)C=O)C1CN(CCC1)C(=O)OC(C)(C)C | C29H31BrN2O4
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-{6-[2-(benzyloxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-4-yl}-1-piperidinecarboxylate | 0.030 g, 23% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=CC(=C2C(=N1)NN=C2)C2CN(CCC2)C(=O)OC(C)(C)C | C29H32N4O3
